US05260314
B. Ethyl (1-azabicyclo[3.2.1]octan-6-yl)cyanoacetate
A solution of ethyl (1-azabicyclo[3.2.1]octan-6-ylidene)cyanoacetate (41 g, 0.19 mol) in abs. ethanol (500 ml) was treated with 10% palladium on carbon (5 g) and hydrogen in a Parr shaker at 30 psi for 5 h. Filtration and evaporation gave the title compound in 36 g yield.

reactant | ethyl (1-azabicyclo[3.2.1]octan-6-ylidene)cyanoacetate | 0.19 mol, 41 g | N12CCCC(C(C1)=C(C(=O)OCC)C#N)C2 | C12H16N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 5 g | [Pd] | Pd
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | Ethyl (1-azabicyclo[3.2.1]octan-6-yl)cyanoacetate | N12CCCC(C(C1)C(C(=O)OCC)C#N)C2 | C12H18N2O2
